US06083961
To a mixture of 3-benzyloxy-2-nitro-N-methylaniline (400 mg) and N,N-dimethylaniline (1 ml) was added methoxyacetyl chloride (310 μl) under nitrogen atmosphere, and the mixture was stirred for 2.5 hours at 90° C. After cooling, ethyl acetate was added to the reaction mixture, and the mixture was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=2:1, v/v) to give 3-benzyloxy-2-nitro-N-methoxyacetyl-N-methylaniline (474.2 mg).

reactant | 3-benzyloxy-2-nitro-N-methylaniline | 400 mg | C(C1=CC=CC=C1)OC=1C(=C(NC)C=CC1)[N+](=O)[O-] | C14H14N2O3
reactant | N,N-dimethylaniline | 1 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | methoxyacetyl chloride | 310 μl | COCC(=O)Cl | C3H5ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-benzyloxy-2-nitro-N-methoxyacetyl-N-methylaniline | 474.2 mg | C(C1=CC=CC=C1)OC=1C(=C(N(C)C(COC)=O)C=CC1)[N+](=O)[O-] | C17H18N2O5
